US06340759B1
(231-4) 1-(4-Ethylpiperazin-1-yl)-7-methoxy-3-phenylisoquinoline dihydrochloride
1-Chloro-7-methoxy-3-phenylisoquinoline (0.20 g) was reacted with N-ethylpiperazine (3 ml) and potassium carbonate (0.2 g) at 120° C. for 5 hr. To the reaction solution were added ethyl acetate and water, and it was extracted with ethyl acetate. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 0.18 g of the free compound of the title compound as a pale yellow oil.

reactant | 1-Chloro-7-methoxy-3-phenylisoquinoline | 0.20 g | ClC1=NC(=CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | N-ethylpiperazine | 3 ml | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-Ethylpiperazin-1-yl)-7-methoxy-3-phenylisoquinoline dihydrochloride | 0.18 g | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | InChI=1S/C22H25N3O.2ClH/c1-3-24-11-13-25(14-12-24)22-20-16-19(26-2)10-9-18(20)15-21(23-22)17-7-5-4-6-8-17;;/h4-10,15-16H,3,11-14H2,1-2H3;2*1H
